US04447441
To a solution of 4-(2-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-yl]ethoxymethyl)benzonitrile (650 mg.) in MeOH (5 ml.) was added hydrogen peroxide (30%, 100 volume) (2 ml.) followed by N aqueous NaOH (1 ml.). The mixture was then stirred at room temperature for 2.25 hours. The solvent was then evaporated in vacuo to give a yellow gum (700 mg.). This gum was purified by medium pressure chromatography using EtOAc/EtOH/triethylamine 96:3:1 v/v/v as eluant to give 4-(2-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-yl]ethoxymethyl)benzamide (210 mg.; 31%) having the following n.m.r. in d6DMSO: 7.5 (m, 4H); 7.5 (d, 1H); 5.8 (d, 1H); 5.0 (s, 2H); 4.0 (m, 4H); 3.7 (m, 2H).

reactant | 4-(2-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-yl]ethoxymethyl)benzonitrile | 650 mg | FC(CN=C(NC1=NN(C=C1)CCOCC1=CC=C(C#N)C=C1)N)(F)F | C16H17F3N6O
reactant | hydrogen peroxide | 2 ml | OO | H2O2
reactant | NaOH | 1 ml | [OH-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | 4-(2-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-yl]ethoxymethyl)benzamide | 210 mg, 31% | FC(CN=C(NC1=NN(C=C1)CCOCC1=CC=C(C(=O)N)C=C1)N)(F)F | C16H19F3N6O2
